US07157447B2
3-(3-Bromomethyl-phenyl)-3-trifluoromethyl-3H-diazirine.
To a solution of intermediate 63, 3-m-tolyl-3-trifluoromethyl-3H-diazirine, (200 mg, 1 mmol) in CCl4 (4 mL) was added N-bromosuccinimide (200 mg, 1.1 mmol, re-crystallized from water), and the stirred mixture heated at 85° C. To this was added AIBN (50 mg) and the mixture heated at reflux for an additional 2.5 hrs. After cooling, the mixture was purified by column chromatography (SiO2, pentane) to provide 150 mg (Yield 54%) of the title compound as a clear oil. 1H NMR (300 MHz, CDCl3) δ ppm: 4.42 (2H, s) 7.10–7.17 (2H, m) 7.31–7.45 (2H, m).

reactant | 3-m-tolyl-3-trifluoromethyl-3H-diazirine | 1 mmol, 200 mg | C1(=CC(=CC=C1)C1(N=N1)C(F)(F)F)C | C9H7F3N2
reactant | N-bromosuccinimide | 1.1 mmol, 200 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 50 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 4 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(3-Bromomethyl-phenyl)-3-trifluoromethyl-3H-diazirine | 150 mg, Yield 54% | BrCC=1C=C(C=CC1)C1(N=N1)C(F)(F)F | C9H6BrF3N2
